US08957066B2
(E)-4-phenylbut-3-enethioamide (120 mg, 0.68 mmol) was dissolved in ethanol (20 mL). (E)-5-bromo-4-oxopent-2-enoic acid (290 mg, 1.50 mmol) was then added at room temperature and the reaction mixture was stirred for 1 h. The solution was concentrated and the crude residue was purified by column chromatography to give (E)-3-(2-cinnamylthiazol-4-yl)acrylic acid (90 mg). ES+ (M+H)+ 272.

reactant | (E)-4-phenylbut-3-enethioamide | 0.68 mmol, 120 mg | C1(=CC=CC=C1)/C=C/CC(N)=S | C10H11NS
reactant | (E)-5-bromo-4-oxopent-2-enoic acid | 1.50 mmol, 290 mg | BrCC(/C=C/C(=O)O)=O | C5H5BrO3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | (E)-3-(2-cinnamylthiazol-4-yl)acrylic acid | 90 mg | C(C=CC1=CC=CC=C1)C=1SC=C(N1)/C=C/C(=O)O | C15H13NO2S
